US05214138
In Vitro Synthesis of Pentosidine
In order to confirm the pentose-derived nature of the native fluorophore 100 mM each of L-lysine, L-arginine and D-ribose were heated for 1 hour at 80° C. Injection of a small amount of this synthetic material on HPLC revealed a major fluorescent peak co-eluting with the native fluorophore. (see FIG. 5) In order to substantiate the proposed structure, the synthetic fluorophore was prepared preparatively and purified. Total yield was 21 mg; i.e., 0.02% of the reactants.

reactant | pentose | C(C(C(C(C=O)O)O)O)O | C5H10O5
reactant | L-lysine | 100 mM | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | L-arginine | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | D-ribose | O=C[C@H](O)[C@H](O)[C@H](O)CO | C5H10O5
product | Pentosidine | C1=CN(C2=NC(=NC2=C1)NCCC[C@@H](C(=O)O)N)CCCC[C@@H](C(=O)O)N | C17H26N6O4
